US07268232B2
4-((S)-4a-Hydroxyoctahydroisoquinolin-2-yl)naphthalene-1-carbonitrile (196MBT2-24)
The title compound (8 mg, 22% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and (S)-4a-hydroxyoctahydroisoquinoline (73 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | (S)-4a-hydroxyoctahydroisoquinoline | 0.468 mmol, 73 mg | O[C@]12CCNCC2CCCC1 | C9H17NO
product | 4-((S)-4a-Hydroxyoctahydroisoquinolin-2-yl)naphthalene-1-carbonitrile | 8 mg, 22% yield | O[C@]12CCN(CC2CCCC1)C1=CC=C(C2=CC=CC=C12)C#N | C20H22N2O
